US05521167
To a suspension of 5.5 g of NaH (60% dispersion in mineral oil) in 400 ml of dry tetrahydrofuran 8.5 g of 17-ethylenedioxy-androstan-3β-ol were added at room temperature under nitrogen atmosphere. The mixture was kept at 40° C. for 2 hrs, then 26 ml of bromoacetaldehyde diethylacetal were added and the suspension was kept at the same temperature for 4 hrs; 50 ml of water were added cautiously, and the tetrahydrofuran was distilled under reduced pressure. The residue was extracted with methylene chloride, the organic layer was dried over anhydrous sodium sulfate and evaporated to dryness under reduced pressure. The crude product was purified by flash-chromatography (SiO2) using n-hexane/ethyl acetate 80/20 as eluant to give 7.5 g of 3β-(2,2-diethoxyethoxy)-17-ethylenedioxy-androstane as a thick oil.

reactant | NaH | 5.5 g | [H-].[Na+]
reactant | 17-ethylenedioxy-androstan-3β-ol | C1OC2[C@]3(C)[C@@H](CC2OC1)[C@@H]1CCC2C[C@H](CC[C@]2(C)[C@H]1CC3)O | C21H34O3
reactant | bromoacetaldehyde diethylacetal | 26 ml | C(C)OC(CBr)OCC | C6H13BrO2
reactant | water | 50 ml | O | H2O
solvent | tetrahydrofuran | 400 ml, 8.5 g | O1CCCC1 | C4H8O
product | 3β-(2,2-diethoxyethoxy)-17-ethylenedioxy-androstane | 7.5 g | C(C)OC(CO[C@@H]1CC2CC[C@H]3[C@@H]4CC5C([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)OCCO5)OCC | C27H46O5
